US07576099B2
2-(3,3-dimethylbut-1-ynyl)pyrimidine-5-carboxylic acid
A mixture 2-(3,3-dimethylbut-1-ynyl)pyrimidine-5-carbonitrile (1.0 g, 0.005 mol) and potassium hydroxide (2.8 g, 0.05 mol) in isopropanol (40 mL) and water (10 mL) was heated at reflux for three hours. The mixture was allowed to cool to room temperature and concentrated under vacuum. Water (200 mL) was added and the mixture was cooled to 0° C., then conc. HCl was added until a pH of 6 was obtained. The resulting off-white precipitate was collected by filtration and washed with water to give the product as a solid. m/z=205 (M+1).

reactant | 2-(3,3-dimethylbut-1-ynyl)pyrimidine-5-carbonitrile | 0.005 mol, 1.0 g | CC(C#CC1=NC=C(C=N1)C#N)(C)C | C11H11N3
reactant | potassium hydroxide | 0.05 mol, 2.8 g | [OH-].[K+]
reactant | isopropanol | 40 mL | C(C)(C)O | C3H8O
solvent | water | 10 mL | O | H2O
product | 2-(3,3-dimethylbut-1-ynyl)pyrimidine-5-carboxylic acid | CC(C#CC1=NC=C(C=N1)C(=O)O)(C)C | C11H12N2O2
